US06749771B1
(b) Acrylic acid 6-(4′-hydroxybiphenyl-4-oxy)hexyl ester
A solution of 4,4′-dihydroxybiphenyl (3.72 g, 20 mmol), acrylic acid 6-iodohexyl ester (4.21 g, 15 mmol) and potassium carbonate (2.07 g, 15 mmol) in DMF (50 ml) was stirred overnight at room temperature and under argon atmosphere. The reaction mixture was then poured into HCl 3N (100 ml) and extracted with ether (3×200 ml). The combined organic extracts were washed with saturated NaCl solution (200 ml), dried over magnesium sulfate, filtered and evaporated to dryness. The crystalline residue obtained was purified on silica-gel column (CH2Cl2, CH2Cl2/Et2O:19/1). This gave acrylic acid 6-(4′-hydroxybiphen-4-yloxy-)hexyl ester as white crystalline material. Yield 2.5 g.

reactant | 4,4′-dihydroxybiphenyl | 20 mmol, 3.72 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | acrylic acid 6-iodohexyl ester | 15 mmol, 4.21 g | ICCCCCCOC(C=C)=O | C9H15IO2
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 3N, 100 ml | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Acrylic acid 6-(4′-hydroxybiphenyl-4-oxy)hexyl ester | OC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C21H24O4
